US04880894
A mixture of 2-methylbenzimidazole (1.32 g, 0.01 mol), 1-bromobutane (1.21 g, 0.01 mol), 50% aqueous sodium hydroxide (5 ml), toluene (20 ml) and 0.5 mmol of compound 1 was stirred at 80°-85° C. for 3 hours. After that time, the resulting mixture was allowed to cool to room temperature and the organic layer was separated, extracted with concentrated hydrochloric acid (3×20 ml). The acidic solution was neutralized with 20% sodium hydroxide, extracted with toluene (3×15 ml), dried over magnesium sulphate and evaporated to give a residue which was distilled at reduced pressure (0.4-0.5 mm 162°-6° C.) to give 1-n-butyl-2-methylbenzimidazole. Yield: 65%.

reactant | 2-methylbenzimidazole | 0.01 mol, 1.32 g | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | 1-bromobutane | 0.01 mol, 1.21 g | BrCCCC | C4H9Br
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-n-butyl-2-methylbenzimidazole | Yield: 65% | C(CCC)N1C(=NC2=C1C=CC=C2)C | C12H16N2
